US03957750
Preparation of 1,4-Bis [1-(t-butylazo)-1,3-dimethylbutoxy] butane ##EQU18##
To a slurry of 1.98 grams (.047 moles) of sodium hydride in 50 ml. dioxane in a 100 ml. reaction flask equpped with a magnetic stirrer, thermometer, addition funnel, and gas bubbler, was added 2.11 grams (0.0235 moles) of 1,4-butanediol. The reaction was followed by hydrogen evolution and it required over 8 hours to complete so the reaction was stirred overnight. The next morning, 9.59 grams (0.047 moles) of 2-t-butylazo-2-chloro-4-methylpentane was added dropwise at room temperature to the stirred salt solution. After the addition was complete, the reaction was stirred 4 hours and then checked by gas chromatography. Gas chromatography indicated there was a small amount of unreacted 2-t-butylazo-2-chloro-4-methylpentane left so the reaction was allowed to stir overnight. The next day, the reaction mixture was poured into 200 mls. of cold water and extracted with pentane. The pentane solution was washed with H2O, dried over anhydrous sodium sulfate, filtered and the pentane evaporated to leave 9.3 grams (93% yield) of a straw yellow liquid. The crude product was purified by column chromatography over alumina, using the pentane as the eluent. The infrared spectrum of the purified material was in agreement with the structure of the desired product.

reactant | sodium hydride | .047 moles, 1.98 grams | [H-].[Na+]
reactant | 1,4-butanediol | 0.0235 moles, 2.11 grams | C(CCCO)O | C4H10O2
reactant | hydrogen | [H][H] | H2
reactant | 2-t-butylazo-2-chloro-4-methylpentane | 0.047 moles, 9.59 grams | C(C)(C)(C)N=NC(C)(CC(C)C)Cl | C10H21ClN2
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 1,4-Bis [1-(t-butylazo)-1,3-dimethylbutoxy] butane | 9.3 grams, 93% yield | C(C)(C)(C)N=NC(CC(C)C)(OCCCCOC(CC(C)C)(N=NC(C)(C)C)C)C | C24H50N4O2
